US05134128
1-Bromo-5-(2-napthyl)-pentane
Bromine (a 2M solution in dichloromethane; 955 mg, 5.97 mmol) was added to a solution of 1,2-bis (diphenyl)phosphinoethane (1.16 g, 2.99 mmol) in dichloromethane (15 ml) at 0°. A solution of 5-(2-napthyl)pentan-1-ol (513 mg, 2.39 mmol) in dichloromethane (5 ml) was added to the 0° solution. The solution was warmed to room temperature and stirred for 1.5 hours. The solution was diluted with ethyl ether/pentane (1:3), filtered through a thin pad of celite and the solvent evaporated. The resulting oil was purified by flash chromatography (hexane) giving the title compound as a colorless oil.

reactant | Bromine | BrBr | Br2
reactant | 1,2-bis (diphenyl)phosphinoethane | 2.99 mmol, 1.16 g | C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H24P2
reactant | 5-(2-napthyl)pentan-1-ol | 2.39 mmol, 513 mg | C1=C(C=CC2=CC=CC=C12)CCCCCO | C15H18O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl ether pentane | C(C)OCC.CCCCC
product | 1-Bromo-5-(2-napthyl)-pentane | BrCCCCCC1=CC2=CC=CC=C2C=C1 | C15H17Br
